Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
narcotics
 
Attending: ___.
 
Chief Complaint:
Seizures, hypoxic respiratory failure
 
Major Surgical or Invasive Procedure:
___ US Guided Paracentesis (___)

 
History of Present Illness:
Mr. ___ is a ___ with PMHx of seizure d/o, CVA and prostate 
CA who presented with seizures and hypoxic respiratory failure.  


Pt was in his usual state of health unti ___ around 10 AM when 
___ was heard making odd noises and found by his wife with 
jerking activity. She called ___. Upon EMS arrival the patient 
was hypoxic with SpO2 around 50%, which improved to 90% on NRB. 
At OSH ED, ___ was noted to have a second seizure with twitching 
of bilateral eyes and urinary incontinence, at which time ___ was 
given lorazepam and keppra, which apparently aborted the 
activity. Following this, ___ was minimally responsive, with ABG 
of 7.43/49/30, and was intubated for airway protection and 
persistent hypoxia. Other labs showed a WBC of 18, lactate of 
10. CT head negative for acute process. LP not performed, ___ was 
given vancomycin, zosyn, and acyclovir. 

Per review of Atrius records, patient was seen by ___ NP on ___ 
(5 days prior to admission) for routine follow up. At that time, 
___ had worsening back pains for which ___ was newly prescribed 
gabapentin 100mg TID with better control of pain than tramadol 
previously. ___ was complaining of general malaise and being more 
tired during the day. At that time, patient was "in good 
spirits, NAD, pleasant and good historian except remembering 
people's names." At baseline, receives daily help for 
maintaining hygiene.  
 
The patient was intubated and sedated upon arrival to ___. ___ 
notably became hypotensive with administration of 
benzodiazepines with attempted LP. In the ED, the pt received 1L 
NS with 40mEq KCl at 250ml/hr, propofol, keppra 1gm BID, 
multiple doses of IV lorazepam, x2 1L NS boluses

Review of systems:  
Unable to obtain ___ intubation

 
Past Medical History:
1. Alcoholic cirrhosis complicated by gastric varices and recent
UGIB during EGD
2. VAP, asx execept for initial fevers and ?RLL consolodation on
CXR in MICU; on 2wk IV abx
2. "encephalopathy" ?EtOH w/drawal seizures ?looks like 
extensive
white matter ___ dis
3. Myelodysplastic syndrome
4. Radiation proctitis
5. Total hip replacement
6. Juvenile rheumatoid arthritis
7. ?h/o Seizures

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
============================
Vitals: Reviewed in MetaVision
GENERAL: Intubated and sedated
HEENT: Sclera anicteric, MMM, ETT in place  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Rhonchi bilaterally
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, contractures of bilateral ___, and LUE hand 
SKIN:  fungal appearing rash over R buttock, no petechial rash 
NEURO:  moves RUE/RLE to pain, PERRL

DISCHARGE PHYSICAL EXAM
============================
Vitals:  98.1  125/60  77  18  100% RA
GENERAL: NAD, contracted left legs  
 HEENT: Sclera anicteric, MMM  
 NECK: supple, JVP not elevated, no LAD  
 LUNGS: CTAB.  
 CV: Regular rate and rhythm, normal S1 S2, II/VI systolic 
murmur heard best over LLSB and axilla.  
 ABD: soft, mild protuberance, no tenderness, non-distended, 
bowel sounds present, no rebound tenderness or guarding, no 
organomegaly. Negative for asterixis in right arm.  
 EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, contractures of bilateral ___, and LUE hand  
 SKIN: fungal appearing rash over R buttock, no petechial rash  
 NEURO: AAOx3
 
Pertinent Results:
ADMISSION LABS
==================
___ 04:37PM BLOOD WBC-10.5* RBC-2.72* Hgb-8.6* Hct-25.3* 
MCV-93 MCH-31.6 MCHC-34.0 RDW-13.5 RDWSD-45.8 Plt Ct-96*
___ 04:37PM BLOOD Neuts-86.3* Lymphs-3.7* Monos-9.2 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-9.03* AbsLymp-0.39* 
AbsMono-0.96* AbsEos-0.00* AbsBaso-0.01
___ 04:37PM BLOOD ___ PTT-30.0 ___
___ 04:37PM BLOOD Plt Smr-LOW Plt Ct-96*
___ 03:02AM BLOOD Ret Aut-1.3 Abs Ret-0.03
___ 09:54PM BLOOD ___ 04:37PM BLOOD Glucose-117* UreaN-20 Creat-0.7 Na-146* 
K-2.8* Cl-109* HCO3-20* AnGap-20
___ 04:37PM BLOOD ALT-15 AST-29 AlkPhos-52 TotBili-0.9
___ 04:37PM BLOOD Albumin-3.3*
___ 09:54PM BLOOD Calcium-7.3* Phos-2.1* Mg-1.2*
___ 03:02AM BLOOD calTIBC-165* ___ Ferritn-644* 
TRF-127*
___ 09:54PM BLOOD PSA-4.3*
___ 03:20PM BLOOD Vanco-21.6*
___ 04:37PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:06PM BLOOD ___ pO2-30* pCO2-37 pH-7.36 
calTCO2-22 Base XS--4
___ 04:41PM BLOOD Lactate-3.6*
___ 10:06PM BLOOD freeCa-1.01*

STUDIES/IMAGING
=====================
OSH NCHCT notable for CT extensive tissue loss in R cerebral 
hemisphere similar to patient's previous MRI. No evidence of 
acute hemorrhage or large vessel territorial infarction.

___ RUQUS:
1.  Cirrhosis with sequelae of portal hypertension including 
moderate volume ascites and recannulized umbilical vein.  Poorly 
characterized liver lesion measuring up to 3.4 cm requires MRI 
to further assess. 
2.  Cholelithiasis without signs of cholecystitis. 

___ Cerebrospinal fluid Cytology:
NEGATIVE FOR MALIGNANT CELLS.
- Scattered small lymphocytes. 

___ MR HEAD
1. Chronic right parieto-occipital infarct with encephalomalacia 
and ex vacuo dilatation of the right lateral ventricle, 
unchanged from ___. 
2. No new infarct, hemorrhage, or enhancing parenchymal mass. 
3. No finding to suggest meningitis.  Of note most patient's 
with meningitis do not have MRI findings and if persistent 
clinical concern consider lumbar puncture for further 
evaluation. 
4. Heterogeneously enhancing right base of tongue area is poorly 
characterized due to patient motion and may represent a large 
base of tongue mass or tongue deviation secondary to 
endotracheal tube. 
5. Extensive nonspecific T2/FLAIR hyperintensities are unchanged 
since ___ 
  
___ CTA HEAD:
1. Chronic right parieto-occipital infarct with encephalomalacia 
and no evidence of new infarction or hemorrhage. 
2. Large left posterior cerebral artery without definite 
visualization of the right posterior communicating artery and a 
diminutive right anterior cerebral artery. 
3. Mild narrowing of the right internal carotid artery just 
distal to the bifurcation the without stenosis. 

___ EEG
IMPRESSION: This is an abnormal continuous ICU EEG monitoring 
study because of a poorly organized and slower than normal 
background, consistent with a moderate encephalopathy of toxic, 
metabolic, and/or anoxic etiology. No focal or epileptiform 
features were seen.

___ MRI
IMPRESSION: 
1.  Well-defined 4.6 x 3.9 cm T2 hyperintense lesion appears 
exophytic from segment ___ without appreciable enhancement, 
consistent with a cyst.
 
2.  There are no suspicious enhancing hepatic masses, however 
this study is not sufficient for the evaluation ofhepatocellular 
carcinoma.  Follow-up surveillance imaging as an outpatient is 
recommended.
 
3.  Large volume ascites.  There is edema of the proximal small 
bowel loops, which could be related to third spacing.

___ CXR
IMPRESSION:
1. Bibasilar opacities are most consistent with atelectasis 
given low lung volumes, however may be secondary to aspiration.
2. Small left pleural effusion. 

___ US Guided Paracentesis 
IMPRESSION: 
Technically successful ultrasound-guided diagnostic and 
therapeutic
paracentesis removing 1.0 L of cloudy yellow fluid.  Fluid 
samples were submitted to the laboratory for cell count, 
differential, culture, and cytology.

___ Peritoneal Cytology: pending

___: 
RUQUS IMPRESSION: 
Significantly limited examination due to bowel gas overlying the 
patient's
liver demonstrates a cirrhotic liver with a recanalized 
umbilical vein, and
splenomegaly, indicative of portal hypertension.  The portal 
vein is not well
seen, however was demonstrated to be patent on MR from ___.

___:
KUB
IMPRESSION:
1. Mild colonic dilation measuring up to 6.7 cm, likely 
reflecting colonic
ileus.  No evidence of obstruction.
2. Cholelithiasis.

MICROBIOLOGY
==================
___ Blood Culture: NO GROWTH 
___ Blood Culture: NOT GROWTH
___ Urine Culture: (Final ___:    NO GROWTH. 
___ CSF CRYPTOCOCCAL ANTIGEN NOT DETECTED. 
___ CSF Enterovirus Culture (Preliminary): No Enterovirus 
isolated. 
___ CSF ANALYSIS WBC 1 RBC 2 Polys 193 Lymphs 544 Monos 27  
Total protein 34 Glucose ___ CSF    
GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

___ CSF VARICELLA ZOSTER VIRUS (VZV) DNA, QL RT PCR  Not 
Detected
___ CSF CMV DNA, QL PCR NOT DETECTED
___ CSF ___ VIRUS, QUAL TO QUANT, PCR Results Pending 

___ CSF Herpes Simplex Virus PCR HSV 1 and HSV 2 PCR Negative 
              

___ PARANEOPLASTIC AUTOANTIBODY EVALUATION Results Pending
 
___ C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
___ Norovirus genotype 1 and 2 NEGATIVE

___ Blood Culture, Routine (Pending): 
___ Blood Culture, Routine (Pending): 
___ Urine Culture, Routine (Pending): 

___ PERITONEAL FLUID      PERITONEAL FLUID. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Preliminary): 

   ANAEROBIC CULTURE (Preliminary):

___ Norovirus Genotype I and II negative

___ Blood Type and Screen A NEG 

___ 9:25 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C. difficile by the Illumigene 
DNA
         amplification.            (Reference Range-Negative). 
         ___ Reported to and read back by ___ 
(___) AT
         12:20 ___. 

DISCHARGE LABS
==================
___ 05:48AM BLOOD WBC-4.3 RBC-2.35* Hgb-7.5* Hct-23.4* 
MCV-100* MCH-31.9 MCHC-32.1 RDW-16.4* RDWSD-58.7* Plt ___
___ 05:48AM BLOOD Plt ___
___ 05:48AM BLOOD Glucose-103* UreaN-13 Creat-0.5 Na-140 
K-4.2 Cl-104 HCO3-28 AnGap-12
___ 05:48AM BLOOD Calcium-8.6 Phos-4.2 Mg-2.2
 
Brief Hospital Course:
Mr. ___ is a ___ y/o man with a PMH of chronic R 
parieto-occipital stroke (___) with residual L-sided 
hemiparesis, seizure disorder (on Keppra), prostate CA on ADT, 
___ B alcoholic cirrhosis (with grade I varices) c/b 
massive upper GIB (___), who was managed for seizures and 
confusion, course complicated by C.diff. 

# Seizures/Respiratory Hypoxic Failure: Upon arrival to MICU, ___ 
was intubated in the setting of ongoing seizures for airway 
protection. Patient was not actively seizing on admission but 
cvEEG monitoring initiated for recurrence. It did not show 
active seizure activity. There was concern the seizuress were 
caused by infection. Empirically started on cefepime, 
ceftriaxone, ampicillin, acyclovir, and vancomycin. Infectious 
workup, including CSF with viral serologies were negative, just 
pending CMV, EBV. Antibiotics and acyclovir subsequently 
stopped. Urine and serum toxicology were negative. MR and CTA 
head with chronic encaphalomalacia, no enhancement suggestive of 
infection, no mass lesions, and no other source for seizure 
focus. Neurology consulted for antiepileptic management, with 
recs to continue on current keppra regimen. Once diagnostic 
testing completed, patient was extubated without difficulty on 
HD #2. Patient denied recent drinking history (had a reported 
history of past withdrawal seizures). Given improvement in 
respiratory status, ___ was transferred to medicine on ___.

# Altered Mental Status: Patient with intermittent episodes of 
confusion and disorientation. RUQUS showed liver mass with 
moderate ascites. On ___ AM presented with confusion and word 
finding difficulties. ___ was alert but oriented x1, with 
difficulty with attention tasks. Given his moderate ascites on 
RUQUS, AMS was concern for hepatic encephalopathy and 
decompensated cirrhosis. ___ US Guided Paracentesis; 
peritoneal fluid analysis was unremarkable. Repeat infectious 
work up with CXR, urinalysis, urine culture and blood cultures 
were negative. The episodes of confusion were secondary to ICU 
delirium vs. baseline confusion vs hepatic encephalopathy. 
Serial neuro exams improved with AAOx3 at time of discharge. ___ 
was started on lactulose and rifaximin. In terms of his 
alcoholic cirrhosis, ___ is ___ B and MELD Score 9. RUS 
___ showed liver mass; AFP 1. ___ MRI was non-diagnostic but 
mass was more consistent with cyst. ___ received Hep A and Hep B 
vaccines (___). ___ will need outpatient hepatology follow up. 
___ continued home thiamine and ordered folate 1 mg daily. 

# Thrombocytopenia, anemia: ___ was found to have 
thrombocytopenia and mild anemia on presentation likely 
secondary to cirrhosis and MDS. ___ developed Hgb >7, for which 
___ received 1 pRBC. Hgb drops likely secondary to MDS.

# C.diff colitis: Patient also developed abdominal pain, no 
fevers, chills, leukocytosis, hypotension, tachycardia. Was 
found to be Cdiff positive and so was started on PO Vancomycin 
on ___ for a 14 day course which ___ will continue after 
discharge. Patient's abdominal pain improved after 2 days on 
Vancomycin, almost completely gone on day of discharge.

TRANSITIONAL ISSUES
=============================
[] IVC filter in place (seen on MRI Liver on ___
[] Per MRI Liver on ___: There are no suspicious enhancing 
hepatic masses, however this study is not sufficient for the 
evaluation ofhepatocellular carcinoma. Follow-up surveillance 
imaging as an outpatient is recommended.
[] Needs Hepatology follow up for cirrhosis and hepatic 
encephalopathy
[] Needs repeat Hep A and Hep B vaccines (both started ___.
[] Continue folic acid and thiamine, daily
[] Started Rifaximin and Lactulose BID - AAOx3 at discharge
[] Has Neurology follow up - for spasticity after stroke
[] Continue LevETIRAcetam 1000 mg PO BID
[] Cdiff positive. Vancomycin PO x 14 days (___)
[] Started Omeprazole 20mg daily and Ranitidine 150mg daily. 
Stop these as deemed appropriate by outpatient providers. 
[] Needs to be evaluated for HOSPITAL AIR MATTRESS at home given 
pt has Satge III coccyx ulcer and is bedbound
[] Please follow up for MDS and prostate CA at ___ (Drs. 
___.
[] Increased gabapentin to 200mg TID for spasticity pain.
[] MRI Findings: Need follow up imaging of tongue: incidentally 
found Heterogeneously enhancing right base of tongue area is 
poorly characterized due to patient motion and may represent a 
large base of tongue mass or tongue deviation 
# Full Code
# Communication: HCP: Wife ___ 
___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LevETIRAcetam 1000 mg PO BID 
2. Gabapentin 100 mg PO TID 
3. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
4. Baclofen 20 mg PO TID 

 
Discharge Medications:
1.  DICYCLOMine 20 mg PO QID: PRN abdominal pain  
RX *dicyclomine 20 mg 1 tablet(s) by mouth four times a day Disp 
#*30 Tablet Refills:*0 
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Lactulose 30 mL PO BID 
RX *lactulose 20 gram/30 mL 30 mL by mouth twice a day 
Refills:*0 
4.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
5.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0 
6.  Psyllium Powder 1 PKT PO TID  
7.  Ranitidine 150 mg PO DAILY 
RX *ranitidine HCl 150 mg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
8.  Rifaximin 550 mg PO BID 
RX *rifaximin [Xifaxan] 550 mg 1 tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*0 
9.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
10.  Vancomycin Oral Liquid ___ mg PO/NG Q6H 
RX *vancomycin 125 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*40 Capsule Refills:*0 
11.  Gabapentin 200 mg PO TID 
RX *gabapentin 100 mg 2 capsule(s) by mouth three times a day 
Disp #*30 Capsule Refills:*0 
12.  Baclofen 20 mg PO TID  
13.  LevETIRAcetam 1000 mg PO BID  
14.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
===================
-Seizures 
-Chronic R parieto-occipital stroke (___)
-Residual L-sided hemiparesis
-___ B alcoholic cirrhosis (with grade I varices) c/b 
massive upper GIB (___)
-Clostridium difficile

SECONDARY DIAGNOSIS
=======================
-Prostate cancer on androgen deprivation therapy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ 
Intensive care unit for seizures and difficulty breathing. You 
were intubated to help protect your airway and maintain your 
breathing. You were worked up for an infectious cause of your 
seizures which was negative for any urinary tract infection, 
pneumonia or infection in your cerebral spinal fluid. We believe 
your seizures were likely secondary to missing doses of 
medication.

While you were here, you had moments of confusion. We think this 
may have been from being sick in the hospital but also from your 
cirrhosis of the liver. We started two medications to help you 
think more clearly.

You later developed abdominal pain which was likely from a colon 
infection called C.diff. We started treatment with oral 
antibiotics and your symptoms improved. You will continue these 
for 14 days total.

We are discharging you home. Please follow up with your Primary 
Care physician, ___ MD ___ NP ___ within 
___ weeks after discharge. 

We wish you the best,

Your ___ Team
 
Followup Instructions:
___